US09359375B2
A mixture of (R)-tert-butyl 1-amino-3-(4-iodophenyl)-1-oxopropan-2-ylcarbamate (200 mg, 0.512 mmol), sodium methanesulfinate (200 mg, 85%, 1.66 mmol), CuOTf hemi-toluene complex (120 mg, 0.464 mmol) and N,N′-dimethylethylenediamine (0.030 mL, 0.279 mmol) in DMSO (5 mL) was stirred at 115 C for 3 h. Water and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give (R)-tert-butyl 1-amino-3-(4-(methylsulfonyl)phenyl)-1-oxopropan-2-ylcarbamate (154 mg).

reactant | (R)-tert-butyl 1-amino-3-(4-iodophenyl)-1-oxopropan-2-ylcarbamate | 0.512 mmol, 200 mg | NC([C@@H](CC1=CC=C(C=C1)I)NC(OC(C)(C)C)=O)=O | C14H19IN2O3
reactant | sodium methanesulfinate | 1.66 mmol, 200 mg | CS(=O)[O-].[Na+]
reactant | N,N′-dimethylethylenediamine | 0.279 mmol, 0.030 mL | CNCCNC | C4H12N2
reactant | Water | O | H2O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-tert-butyl 1-amino-3-(4-(methylsulfonyl)phenyl)-1-oxopropan-2-ylcarbamate | 154 mg | NC([C@@H](CC1=CC=C(C=C1)S(=O)(=O)C)NC(OC(C)(C)C)=O)=O | C15H22N2O5S
